US09120749B2
tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino) pyrimidin-2-yl)piperidin-4-ylcarbamate
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with tert-butyl 1-(5-aminopyrimidin-2-yl)piperidin-4-ylcarbamate (440 mg, 1.5 mmol) to afford the desired product (374 mg, 66%) as a yellow solid: ESI MS m/z 567 [C27H31BrN6O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 1-(5-aminopyrimidin-2-yl)piperidin-4-ylcarbamate | 1.5 mmol, 440 mg | NC=1C=NC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C14H23N5O2
product | tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino) pyrimidin-2-yl)piperidin-4-ylcarbamate | 374 mg, 66% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C27H31BrN6O3
